US04783537
To 7.46 g (0.05 mol) of N-methyl phenylacetamide (prepared by reaction of phenylacetyl chloride with monomethylamine in CH2Cl2 solvent) dissolved in 70 ml of THF and cooled in an ice-bath to 0°, was added dropwise with stirring under N2, 40 ml (0.10 mol) of a 2.5M solution of N-BuLi in n-hexane. After stirring at 0° for 30 min, the solution was treated by the rapid addition of 5.4 g (0.05 mol) of 2-(dimethylamino)ethyl chloride in 30 ml of THF and then stirred at 0° for 30 min. The reaction mixture was then poured into 250 ml of 1N HCl, ether was added and the aqueous layer was separated, basified with 2.5N NaOH and extracted with Et2O. The ether extract was dried (Na2SO4), concentrated, and kugelrohr distilled to afford 9.2 g (83.5%) of N-methyl-4-dimethylamino-2-phenylbutanamide as a viscous, colorless oil; bp 130°-135°/0.1 mm.

reactant | N-methyl phenylacetamide | 0.05 mol, 7.46 g | CNC(CC1=CC=CC=C1)=O | C9H11NO
reactant | 2-(dimethylamino)ethyl chloride | 0.05 mol, 5.4 g | CN(CCCl)C | C4H10ClN
reactant | HCl | 1N, 250 ml | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-methyl-4-dimethylamino-2-phenylbutanamide | 9.2 g, 83.5% | CNC(C(CCN(C)C)C1=CC=CC=C1)=O | C13H20N2O
